US05707987
To a solution of (2R,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1-naphthylmethyl]pyrrolidine (144 mg, 0.21 mmol) in methanol-tetrahydrofuran (3:1) (4 ml), 1N aqueous sodium hydroxide (0.24 ml, 0.24 mmol) was added in a nitrogen stream under cooling with ice. This reaction solution was stirred for 10 minutes and then 1N hydrochloric acid (0.24 ml, 0.24 mmol) was added thereto. Then the resulting solution was concentrated in vacuo. The resulting residue was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo to give a crude product of (2R,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1-naphthylmethyl]-pyrrolidine as a yellow oily substance.

reactant | (2R,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1-naphthylmethyl]pyrrolidine | 0.21 mmol, 144 mg | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C2=CC=CC=C12)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C34H32N4O9S
reactant | sodium hydroxide | 0.24 mmol, 1N, 0.24 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.24 mmol, 1N, 0.24 ml | Cl | ClH
solvent | methanol tetrahydrofuran | 4 ml | CO.O1CCCC1
product | (2R,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1-naphthylmethyl]-pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C2=CC=CC=C12)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H30N4O8S
